US04016274
Following the procedure of Example 28, but starting from 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-6-trifluoromethyl-1-isoindolinone (4.8 g.), 1-chlorocarbonyl-4-methyl-piperazine hydrochloride (15.1 g.), triethylamine (14.2 cc., equivalent to 10.2 g.) and pyridine (66 cc.) in methylene chloride (250 cc.), a crude product (7.8 g.) is obtained, which is triturated with water (50 cc.). The solid obtained is filtered off and washed with water (30 cc.). After recrystallisation from isopropanol (240 cc.), 2-(7-chloro1,8-naphthyridin-2-yl)-3-(4-methyl-piperazinyl)carbonyloxy-6-trifluoromethyl-1-isoindolinone (4.7 g.) melting at 219° C is obtained.

reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-6-trifluoromethyl-1-isoindolinone | 4.8 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC(=CC=C2C1O)C(F)(F)F)=O | C17H9ClF3N3O2
reactant | 1-chlorocarbonyl-4-methyl-piperazine hydrochloride | 15.1 g | Cl.ClC(=O)N1CCN(CC1)C
reactant | triethylamine | 14.2 cc, 10.2 g | C(C)N(CC)CC | C6H15N
reactant | pyridine | 66 cc | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 250 cc | C(Cl)Cl | CH2Cl2
product | 2-(7-chloro1,8-naphthyridin-2-yl)-3-(4-methyl-piperazinyl)carbonyloxy-6-trifluoromethyl-1-isoindolinone | 4.7 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC(=CC=C2C1OC(=O)N1CCN(CC1)C)C(F)(F)F)=O | C23H19ClF3N5O3
